US06093718
A solution of 4,6-dichloropyrimidine (10.05 g), tert-butoxycarbonylpiperazine (11.94 g) and triethylamine (28.20 ml) in ethanol (150 ml) was heated at reflux for 18 hours. Solvent was evaporated and the residue dissolved in ethyl acetate and washed with water, saturated aqueous ammonium chloride solution, dried (Na2SO4) and evaporated. Recrystallisation from ethyl acetate/hexane gave, as a solid 1-(tert-butoxycarbonyl)-4-(6-chloro-pyrimidin-4-yl)piperazine (16.80 g).

reactant | 4,6-dichloropyrimidine | 10.05 g | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | tert-butoxycarbonylpiperazine | 11.94 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | triethylamine | 28.20 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 1-(tert-butoxycarbonyl)-4-(6-chloro-pyrimidin-4-yl)piperazine | 16.80 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=NC(=C1)Cl | C13H19ClN4O2
